US03957666
Preparation of 3-(m-phenoxyphenoxy)-3'-(o-phenoxyphenoxy)biphenyl
A 500 ml. reaction flask equipped with stirrer, condenser, and Dean Stark trap was charged with 191 g. (1.03 moles) of o-phenoxyphenol, 50 ml. of toluene and 39.5 g. (0.70 mole) of potassium hydroxide. The mixture was heated to reflux and water azeotroped from the system. Diglyme (100 ml.) was then added followed by 20 g. (0.053 mole) of 3-chloro-3'-(m-phenoxyphenoxy)biphenyl over a 30 minute period. To this mixture 2.5 g. of cuprous chloride and 0.5 g. of copper powder was added and after removing the diglyme be distillation, the reaction mixture was heated at 230°-240° for 18 hours. The mixture was cooled, diluted with 500 ml. of ether and centrifuged to remove copper and potassium salts. The salts were washed with additional ether, and the ether fractions combined and washed with 25% potassium hydroxide solution followed by water washing to neutrality. After drying the ethereal solution over magnesium sulfate, and removing ether in vacuo, the resulting oil was distilled to give 16.9 g of the desired product, bp 255°-260°/0.02 mm.; nD25 1.6480.

reactant | o-phenoxyphenol | 1.03 moles | O(C1=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O2
reactant | potassium hydroxide | 0.70 mole | [OH-].[K+]
reactant | 3-chloro-3'-(m-phenoxyphenoxy)biphenyl | 0.053 mole | ClC=1C=C(C=CC1)C1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H17ClO2
catalyst | copper | [Cu] | Cu
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(m-phenoxyphenoxy)-3'-(o-phenoxyphenoxy)biphenyl | 16.9 g | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)C2=CC(=CC=C2)OC2=C(C=CC=C2)OC2=CC=CC=C2)C=CC1 | C36H26O4
